US06982348B2
To a solution of ethyl 3-(4-fluorophenyl)-3-oxopropionate (5.0 g, 24 mmol) in 1,2-dimethoxyethane (40 ml) was added sodium hydride (60% in oil, 576 mg, 24 mmol) under ice-cooling and the mixture was stirred at room temperature for 1 hr. To the reaction solution was dropwise added a solution of. 2-(bromomethyl)-5-(trifluoromethyl)furan (6 g, 26 mmol) in 1,2-dimethoxyethane (50 ml) and the reaction solution was stirred overnight at room temperature. The reaction solution was poured into water (200 ml), saturated aqueous sodium hydrogen carbonate was added, and the mixture was extracted with ethyl acetate (200 ml×2). The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to give ethyl 3-(4-fluorophenyl)-3-oxo-2-((5-(trifluoromethyl)-2-furanyl)methyl)propionate (4.5 g, 52%).

reactant | ethyl 3-(4-fluorophenyl)-3-oxopropionate | 24 mmol, 5.0 g | FC1=CC=C(C=C1)C(CC(=O)OCC)=O | C11H11FO3
reactant | sodium hydride | 24 mmol, 576 mg | [H-].[Na+]
reactant | 2-(bromomethyl)-5-(trifluoromethyl)furan | 26 mmol, 6 g | BrCC=1OC(=CC1)C(F)(F)F | C6H4BrF3O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | 1,2-dimethoxyethane | 40 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
solvent | water | 200 ml | O | H2O
product | ethyl 3-(4-fluorophenyl)-3-oxo-2-((5-(trifluoromethyl)-2-furanyl)methyl)propionate | 4.5 g, 52% | FC1=CC=C(C=C1)C(C(C(=O)OCC)CC=1OC(=CC1)C(F)(F)F)=O | C17H14F4O4
